Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[H:8].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-3.58954339312
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.66762746459
[C:3][H:4].[H:1][C:2]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.15791138346
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.3462968165399998
[C:5]([H:6])#[C:7][C:8]([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-0.32245618132
[H:1][C:2]([H:3])[O:4][C:5]=[C:7]([H:8])[H:9].[H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-4.87557252061
[C:1]#[C:2][C:5]([H:6])[C:7][O:8][H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-4.0822038134
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12],3.64677574731
[C:10]([H:11])([H:12])=[C:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],1.31971246237
[H:12].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.35202191306
[C:1]#[C:2].[C:3](=[O:4])=[O:5]>>[C:1]#[C:2][C:3]([O:4])=[O:5],-0.3917769372909999
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9].[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.67523844357
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],3.62032162114
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.69781114182
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.87436572491
[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.27451870956
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.80448325957
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3](\[H:4])(=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.93675038083
[C:4]([O:5][H:6])[O:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.10140989461
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[O:1],8.361282395
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.11785154512
[C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10],-5.44969213861
[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],3.70956368
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],4.49950944741
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.812739326706
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.3695590931800004
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:3]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12])[H:4],-0.258346666969
[C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.68109564344
[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:7][H:8]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8],-2.1444143977700003
